US08580785B2
f) Preparation of 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-benzo[1,2,5]thiadiazole-5-carboxylic acid isopropylamide (T20.1.8)
To a mixture of 25 mg (52 mmol) of 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-7-oxa-2-thia-1,3,5-triaza-cyclopenta[b]naphthalen-8-one in 0.5 ml of THF, is added dropwise 7 ml (77 mmol) of isopropylamine. The reaction is stirred for 18 hours at ambient temperature. Then, the solvent is evaporated and the residue is suspended in a mixture of hexanes and a minimum of EtOAc. After decantation the solid is washed with a minimum of hexanes and after drying 24.5 mg (45 mmol, 87%) of a slightly brown solid were obtained. LC/MS: 544/546 (M+1)+.

reactant | 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-7-oxa-2-thia-1,3,5-triaza-cyclopenta[b]naphthalen-8-one | 52 mmol, 25 mg | ClC=1C=2C(C=C3C(OC(=NC13)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)=O)=NSN2 | C17H5Cl2F3N6O2S
reactant | isopropylamine | 77 mmol, 7 ml | C(C)(C)N | C3H9N
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-benzo[1,2,5]thiadiazole-5-carboxylic acid isopropylamide | C(C)(C)NC(=O)C=1C(=C(C=2C(=NSN2)C1)Cl)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C20H14Cl2F3N7O2S
